US20010027196A1
2-Amino-4-[(3-chloro-5-trifluoromethyl-pyridin-2-yl-methyl)-amino]-6-(4-methyl-furan-2-yl)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-(4-methyl-furan-2-yl)-pyrimidine-5-carbonitrile and 2-aminomethyl-3-chloro-5-(trifluoromethyl)pyridine in DME. ES-MS m/e (%): 411 (M{37Cl}+H+, 35), 409 (M{35Cl}+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-(4-methyl-furan-2-yl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C=1OC=C(C1)C | C11H10N4O2S
reactant | 2-aminomethyl-3-chloro-5-(trifluoromethyl)pyridine | NCC1=NC=C(C=C1Cl)C(F)(F)F | C7H6ClF3N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-[(3-chloro-5-trifluoromethyl-pyridin-2-yl-methyl)-amino]-6-(4-methyl-furan-2-yl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=NC=C(C=C1Cl)C(F)(F)F)C#N)C=1OC=C(C1)C | C17H12ClF3N6O
